US08461158B2
A mixture of 75 mg (155 mmol) of 6-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-4-(4-morpholinyl)-1-(4-piperidinyl)-1H-pyrazolo[3,4-d]pyrimidine and 65 mg (465 mmol) of powdered K2CO3 in CH2Cl2 was cooled to 0° C., and 27 mg (233 mmol) of methanesulfonyl chloride was added. The mixture was allowed to warm to room temperature, and after 2 hrs it was diluted with water and washed with aq. NH3. The organic layer was dried (Na2SO4) and concentrated under vacuum to give 80 mg (92% yield) of 6-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-1-[1-(methylsulfonyl)-4-piperidinyl]-4-(4-morpholinyl)-1H-pyrazolo[3,4-d]pyrimidine: mp (MeOH) 273-276° C.; 1H NMR (CDCl3) δ 8.01 (s, 1H), 7.82 (dd, J=8.4, 0.6 Hz, 1H), 7.46 (t, J=53.6 Hz, 1H), 7.38 (t, J=8.2 Hz, 1H), 6.83 (d, J=7.8 Hz, 1H), 4.85 (tt, J=11.1, 4.1 Hz, 1H), 4.07 (s, 3H), 4.06 (m, 4H), 4.02 (m, 1H), 3.99 (m, 1H), 3.92 (m, 4H), 3.02 (dt, J=12.2, 2.5 Hz, 2H), 2.88 (s, 3H), 2.44 (dq, J=11.6, 4.2 Hz, 2H), 2.17 (m, 2H); Anal. Calcd. for C24H28F2N8O4S: C, 51.2; H, 5.0; N, 19.9. Found: C, 50.85; H, 5.0; N, 19.7%.

reactant | 6-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-4-(4-morpholinyl)-1-(4-piperidinyl)-1H-pyrazolo[3,4-d]pyrimidine | 155 mmol, 75 mg | FC(C1=NC2=C(N1C1=NC(=C3C(=N1)N(N=C3)C3CCNCC3)N3CCOCC3)C=CC=C2OC)F | C23H26F2N8O2
reactant | K2CO3 | 465 mmol, 65 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methanesulfonyl chloride | 233 mmol, 27 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 6-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-1-[1-(methylsulfonyl)-4-piperidinyl]-4-(4-morpholinyl)-1H-pyrazolo[3,4-d]pyrimidine | 80 mg, 92% yield | FC(C1=NC2=C(N1C1=NC(=C3C(=N1)N(N=C3)C3CCN(CC3)S(=O)(=O)C)N3CCOCC3)C=CC=C2OC)F | C24H28F2N8O4S
